US09167819B2
Synthesis of 2-methoxy-N-(1-methyl-1H-tetrazol-5-yl)-3-[S-methyl-N-(trifluoroacetyl)sulfonimidoyl]-4-(trifluoromethyl)benzamide (Table Example No. 1-292)
100 mg (0.248 mmol) of 3-(N-cyano-S-methylsulfinimidoyl)-2-methoxy-N-(1-methyl-1H-tetrazol-5-yl)-4-(trifluoromethyl)benzamide were initially charged in 10 ml of dry dichloromethane and cooled in an ice bath. 156 mg (0.744 mmol) of trifluoroacetic anhydride were added, and after 1.5 h the contents were thawed to RT. The mixture was stirred at RT for 16 h and then poured into water for work-up. The contents were extracted twice with dichloromethane and the mixture was then, after phase separation, freed from the solvent on a rotary evaporator at a temperature of at most 30° C. The residue was purified chromatographically, which gave 17 mg of product.

reactant | 3-(N-cyano-S-methylsulfinimidoyl)-2-methoxy-N-(1-methyl-1H-tetrazol-5-yl)-4-(trifluoromethyl)benzamide | 0.248 mmol, 100 mg | C(#N)N=S(C)C=1C(=C(C(=O)NC2=NN=NN2C)C=CC1C(F)(F)F)OC | C13H12F3N7O2S
reactant | trifluoroacetic anhydride | 0.744 mmol, 156 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-methoxy-N-(1-methyl-1H-tetrazol-5-yl)-3-[S-methyl-N-(trifluoroacetyl)sulfonimidoyl]-4-(trifluoromethyl)benzamide | 17 mg | COC1=C(C(=O)NC2=NN=NN2C)C=CC(=C1S(=O)(=NC(C(F)(F)F)=O)C)C(F)(F)F | C14H12F6N6O4S
